US06255321B1
2.27 g (8.69 mmol) of 3-[(4-isopropyl-2-thiazolyl)methoxy]benzaldehyde and 2.27 g (8.69 mmol) of 4-(4-chlorophenylsulfonylamino)butanamine were dissolved in 150 ml of ethanol and refluxed together with 4.0 g of molecular sieves 3A for 16 hours. The molecular sieves 3A was filtered out, and the filtrate was stirred together with 873 mg of sodium borohydride at room temperature for 3 hours. The reaction solution was evaporated in vacuo for removal of ethanol as the solvent and mixed with water and ethyl acetate for ethyl acetate extraction. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo for removal of the solvent. The residue was purified by silica gel column chromatography (eluent; chloroform to chloroform:methanol=98:2) to give N-[4-(4-chlorobenzenesulfonylamino)butyl]-3-[(4-isopropyl-2-thiazolyl)methoxy]benzylamine (Compound No.1a).

reactant | 3-[(4-isopropyl-2-thiazolyl)methoxy]benzaldehyde | 8.69 mmol, 2.27 g | C(C)(C)C=1N=C(SC1)COC=1C=C(C=O)C=CC1 | C14H15NO2S
reactant | 4-(4-chlorophenylsulfonylamino)butanamine | 8.69 mmol, 2.27 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCN | C10H15ClN2O2S
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-[4-(4-chlorobenzenesulfonylamino)butyl]-3-[(4-isopropyl-2-thiazolyl)methoxy]benzylamine | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCNCC1=CC(=CC=C1)OCC=1SC=C(N1)C(C)C | C24H30ClN3O3S2
